US08563717B2
6-Amino-2-(butyloxy)-9-{[1-(1-methylethyl)-3-piperidinyl]methyl}-7,9-dihydro-8H-purin-8-one
2-Iodopropane (0.1 mmol) was weighed into a vial and an aliquot (0.3 ml, 0.1 mmol) of a solution of 2-(butyloxy)-8-(methyloxy)-9-(3-piperidinylmethyl)-9H-purin-6-amine (802 mg, 2.398 mmol) suspended in DMF (7.2 ml) was added. DIPEA (40 μl, 0.229 mmol) was added and the tube was capped and shaken to aid dispersion then allowed to stand at room temperature (18 hours). DMSO (400 uL) was added and the mixture purified by Mass Directed AutoPrep (Method A). The solvent was evaporated in vacuo using the Genevac. The residue was redissolved in 4M HCl/dioxane (0.5 ml), capped and stood at room temperature for 18 hours. The solvent was dried under a stream of nitrogen in the Radleys blowdown apparatus. The material was redissolved in methanol (0.5 ml), and applied to a 0.5 g aminopropyl SPE (preconditioned with methanol, 2 CV). The cartridge was eluted with methanol (2 ml), the solvent was removed to give the title compound (11.1 mg). LCMS (System A): tRET=0.62 min; MH+ 363

reactant | 2-Iodopropane | 0.1 mmol | IC(C)C | C3H7I
reactant | 2-(butyloxy)-8-(methyloxy)-9-(3-piperidinylmethyl)-9H-purin-6-amine | 2.398 mmol, 802 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1CNCCC1)OC)N | C16H26N6O2
reactant | DIPEA | 0.229 mmol, 40 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | DMSO | 400 uL | CS(=O)C | C2H6OS
solvent | DMF | 7.2 ml | CN(C)C=O | C3H7NO
product | 6-Amino-2-(butyloxy)-9-{[1-(1-methylethyl)-3-piperidinyl]methyl}-7,9-dihydro-8H-purin-8-one | 11.1 mg | NC1=C2NC(N(C2=NC(=N1)OCCCC)CC1CN(CCC1)C(C)C)=O | C18H30N6O2
